US05376681
2,2,4,6,7-Pentamethyl-5-(p-toluenesulfonylamino)-2,3-dihydrobenzofuran
5-Amino-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran (2.00 g, 9.74 mmol) and p-toluenesulfonyl chloride (2.04 g, 10.7 mmol) were dissolved in pyridine (30 ml) and stirred at 50° C. for 1 hour. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in chloroform. The mixture was washed with 1N hydrochloric acid and saturated saline and dried and then the solvent was distilled off under reduced pressure. The residue was purified by column chromatography on silica gel (hexane-ethyl acetate, 97:3). The crude crystals were recrystallized from dichloromethane-isopropyl ether to obtain the desired compound (2.41 g, yield: 68.8% yield), m.p. 219°-220° C. (dichloromethane-isopropyl ether).

reactant | 5-Amino-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran | 9.74 mmol, 2.00 g | NC=1C(=C(C2=C(CC(O2)(C)C)C1C)C)C | C13H19NO
reactant | p-toluenesulfonyl chloride | 10.7 mmol, 2.04 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | dichloromethane isopropyl ether | ClCCl.C(C)(C)OC(C)C
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2,2,4,6,7-Pentamethyl-5-(p-toluenesulfonylamino)-2,3-dihydrobenzofuran | 2.41 g, yield: 68.8% yield | CC1(OC2=C(C1)C(=C(C(=C2C)C)NS(=O)(=O)C2=CC=C(C=C2)C)C)C | C20H25NO3S
